US09035067B2
1. Synthesis of 4-chloro-3-methoxy-N-(4-methyl-1,2,5-oxadiazol-3-yl)-2,3-dihydro-1-benzothiophene-5-carboxamide 1,1-dioxide (table example No. 1928)
1.00 g (3.14 mmol) of 4-chloro-3-methoxy-2,3-dihydro-1-benzothiophene-5-carboxylic acid 1,1-dioxide and 0.33 g (3.15 mmol) of 4-methyl-1,2,5-oxadiazol-3-yl-amine were dissolved at room temperature (RT) in 35 ml of CH2Cl2, 3.02 g (4.74 mmol) of 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide (50% solution in THF) were added and the mixture was stirred at RT for 1 h. Subsequently, 2.18 ml (15.64 mmol) of triethylamine and 75 mg (0.61 mmol) of 4-dimethylaminopyridine (DMAP) were added and the whole mixture was stirred at RT for 16 h. This was followed by washing with water and twice with 6N hydrochloric acid, drying of the organic phase over Na2SO4 and filtration with suction through silica gel, washing through with 1:2 heptane/ethyl acetate and concentration. Yield 708 mg (63%).

reactant | 4-chloro-3-methoxy-2,3-dihydro-1-benzothiophene-5-carboxylic acid 1,1-dioxide | 3.14 mmol, 1.00 g | ClC1=C(C=CC2=C1C(CS2(=O)=O)OC)C(=O)O | C10H9ClO5S
reactant | 4-methyl-1,2,5-oxadiazol-3-yl-amine | 3.15 mmol, 0.33 g | CC=1C(=NON1)N | C3H5N3O
reactant | 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide | 4.74 mmol, 3.02 g | C(CC)P1(OP(OP(O1)(CCC)=O)(CCC)=O)=O | C9H21O6P3
reactant | triethylamine | 15.64 mmol, 2.18 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 35 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.61 mmol, 75 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-chloro-3-methoxy-N-(4-methyl-1,2,5-oxadiazol-3-yl)-2,3-dihydro-1-benzothiophene-5-carboxamide 1,1-dioxide | ClC1=C(C=CC2=C1C(CS2(=O)=O)OC)C(=O)NC2=NON=C2C | C13H12ClN3O5S
